datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5]([H:14])([H:15])[H:16])[C:6]([H:17])([H:18])[H:19])([H:9])[H:10])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]([C:3]([H:11])([H:12])[H:13])[C:4]1([C:5]([H:14])([H:15])[H:16])[C:6]([H:17])([H:18])[H:19],142.256
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[C:14](=[C:15]([C:16]([C:17]([H:22])([H:23])[H:24])[C:18]([H:25])([H:26])[H:27])[H:21])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])([H:7])[C:16]([C:15](=[C:14]([H:19])[H:20])[H:21])([C:17]([H:22])([H:23])[H:24])[C:18]([H:25])([H:26])[H:27])[H:6],45.4801
[C:0](=[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([C:6]([C:7]([H:20])([H:21])[H:22])=[C:8]([C:9]([H:24])([H:25])[H:26])[H:23])([H:18])[H:19])([H:16])[H:17])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([C:7]([H:20])([H:21])[H:22])[C:8]1([C:9]([H:24])([H:25])[H:26])[H:23])[H:12])([H:10])[H:11],98.8261
[H:6].[N:0]([N:1]([H:4])[H:5])([H:2])[H:3]>>[H:2][H:6].[N:0]([N:1]([H:4])[H:5])[H:3],20.2506
[C:0]([S:1][S:2][C:3]([H:6])([H:7])[H:8])([H:4])[H:5]>>[C:0]([S:1])([S:2][C:3]([H:6])([H:7])[H:8])([H:4])[H:5],133.47
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[H:6].[c:14]1[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]1[H:24]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[c:14]1[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]1[H:24])[H:6],5.77392
[C:0]([C:1]([N:2]([H:8])[H:9])([H:6])[H:7])([H:3])([H:4])[H:5].[H:10]>>[C:0]([C:1]([N:2]([H:8])[H:9])[H:7])([H:3])([H:4])[H:5].[H:6][H:10],14.99964
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7]([C:8]([c:9]1[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]1[H:23])[H:18])([H:15])([H:16])[H:17]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][C:8]([C:7]([H:15])([H:16])[H:17])([c:9]1[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]1[H:23])[H:18],50.6264
[S:0]=[C:1][S:2][H:3].[S:4]([C:5]([c:6]1[c:7]([H:15])[c:8]([H:16])[c:9]([H:17])[c:10]([H:18])[c:11]1[H:19])([H:13])[H:14])[H:12]>>[S:0]=[C:1]([S:2][H:3])[H:13].[S:4]([C:5]([c:6]1[c:7]([H:15])[c:8]([H:16])[c:9]([H:17])[c:10]([H:18])[c:11]1[H:19])[H:14])[H:12],33.8904
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([S:9][H:13])([H:10])([H:11])[H:12]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:13])([H:3])[H:4].[C:8]([S:9])([H:10])([H:11])[H:12],-12.9704
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8](=[C:9]([C:10]([H:21])([H:22])[H:23])[c:11]1[c:12]([H:24])[c:13]([H:25])[c:14]([H:26])[c:15]([H:27])[c:16]1[H:28])[H:20])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:8]([C:7](=[C:6]([H:17])[H:18])[H:19])([C:9]([C:10]([H:21])([H:22])[H:23])[c:11]1[c:12]([H:24])[c:13]([H:25])[c:14]([H:26])[c:15]([H:27])[c:16]1[H:28])[H:20])[H:3],38.7857
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[H:8])([H:6])[H:7].[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[H:16])[H:8])([H:6])[H:7],11.1294
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12](=[C:13]([H:15])[H:16])[H:14]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][C:12](=[C:13]([H:15])[H:16])[H:14],-5.0208
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[c:8]1[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]1[H:18]>>[C:0](=[C:1][C:2](=[S:3])[H:7])([H:4])[H:5].[H:6][c:8]1[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]1[H:18],8.368
[C:0](=[S:1])([H:2])[H:3].[C:4]([H:5])([H:6])[H:7]>>[C:0]([S:1][C:4]([H:5])([H:6])[H:7])([H:2])[H:3],20.2924
[C:0](=[C:1]([C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])([H:16])[H:17])([H:14])[H:15])[H:13])[H:12])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]([C:3]1([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]1([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])[H:12])[H:11])([H:9])[H:10],56.8606
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[S:11]=[C:12]([S:13][H:15])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:14])[H:6].[S:11]=[C:12][S:13][H:15],61.0446
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:16])[H:17])[H:15])[C:6]([C:7]([C:8]([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])([H:20])[H:21])([H:18])[H:19])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([H:14])[C:3]([C:4](=[C:5]([H:16])[H:17])[H:15])[C:6]([H:18])([H:19])[C:7]([H:20])([H:21])[C:8]1([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])[H:13])([H:11])[H:12],60.5425
